US04057647
3.2 g. of 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester are dissolved in 40 ml. of acetic acid. The solution is poured into a solution of 9 g. of SnCl2.2H2O in 20 ml. of concentrated hydrochloric acid. The mixture is heated under reflux for 3 hours and adjusted to pH 2 with sodium hydroxide solution. Hydrogen sulfide is passed in until no more SnS precipitates and the mixture is filtered and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butyric acid, m.p. 109°-110°.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C18H18F2O3
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Hydrogen sulfide | S | H2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(2',4'-difluoro-4-biphenylyl)butyric acid | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CC(=O)O)C | C16H14F2O2
